US04404012
Preparation of 5,7-Dihydro-α-isopropyl-α-methyl-5,7-dioxo-6H-pyrrolo[3,4-b]pyridine-6-acetonitrile
To a stirred solution containing 212 g quinolinic anhydride in 950 ml methylene chloride is added at a moderate rate 167 g of 2-amino-2,3-dimethylbutyronitrile. The mixture had reached the boiling point of the solution after about one quarter of the aminonitrile had been added and the rate of addition is adjusted to maintain this temperature. After the addition the solution is heated under reflux for a further 4 hours. The solution is cooled, filtered and concentrated to a thick oil. This oil is dissolved in 950 ml acetic anhydride, 6 g anhydrous sodium acetate added and the mixture distilled until the vapor temperature reached 118° C. when the heating was continued under reflux for 3 hours. The mixture is concentrated in vacuo the residue dissolved in 500 ml toluene and again concentrated. This is repeated. The residue is slurried with a mixture of ether and hexane and the crude product which crystallizes collected (349 g). This is dissolved in 700 ml methylene chloride and filtered through a column containing 700 g silica gel and the product eluted with methylene chloride. Concentration of the eluant gave 258 g of the desired product. An analytically pure sample with mp 95°-96° C. can be obtained by the recrystallization of the product from ether-methylene chloride.

reactant | quinolinic anhydride | 212 g | N1=C2C(=O)OC(C2=CC=C1)=O | C7H3NO3
reactant | 2-amino-2,3-dimethylbutyronitrile | 167 g | NC(C#N)(C(C)C)C | C6H12N2
solvent | methylene chloride | 950 ml | C(Cl)Cl | CH2Cl2
product | 5,7-Dihydro-α-isopropyl-α-methyl-5,7-dioxo-6H-pyrrolo[3,4-b]pyridine-6-acetonitrile | 258 g | C(C)(C)C(C#N)(N1C(C2=NC=CC=C2C1=O)=O)C | C13H13N3O2
